US06888027B2
3-{3-[(Benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-N-hydroxy-acrylamide (PX117226)
To a suspension of hydroxylamine hydrochloride (0.37 g, 5.40 mmol) in tetrahydrofuran (6 ml) a saturated NaHCO3 solution (4.5 ml) was added and the resultant mixture was stirred at ambient temperature for 10 min. To the reaction mixture a solution of crude 3-{3-[(benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acryloyl chloride (0.41 g) in tetrahydrofuran (4 ml) was added and the mixture was stirred at ambient temperature for one hour. The reaction mixture was partitioned between ethyl acetate and 2N HCl. The organic layer was washed successively with water and saturated NaCl, then the solvent was removed. The residue was crystallised from ethyl acetate and washed with diethyl ether affording the title compound (0.14 g, 35%). M.p. 163° C. 1H NMR (DMSO-d6, HMDSO) δ: 3.92 (2H, d, J=6.4 Hz); 5.92 (2H, s); 6.49 (1H, d, J=16.0 Hz); 6.67 (3H, s); 7.34-7.89 (5H, m); 8.12 (1H, t, J=6.4 Hz); 9.07 (1H, br s); 10.78 (1H, br s). HPLC analysis on Symmetry C8 column: impurities 3.5% (column size 3.9×150 mm; mobile phase acetonitrile—0.1M phosphate buffer (pH 2.5), 30:70; sample concentration 0.25 mg/ml; flow rate 1.2 ml/min; detector UV 254 nm). Anal. Calcd for C17H16N2O6S, %: C, 54.25; H, 4.28; N, 7.44. Found, %: C, 54.19; H, 4.20; N, 7.33.

reactant | hydroxylamine hydrochloride | 5.40 mmol, 0.37 g | Cl.NO
reactant | NaHCO3 | 4.5 ml | C(=O)(O)[O-].[Na+]
reactant | 3-{3-[(benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acryloyl chloride | 0.41 g | O1COC2=C1C=CC(=C2)CNS(=O)(=O)C=2C=C(C=CC2)C=CC(=O)Cl | C17H14ClNO5S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3-{3-[(Benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-N-hydroxy-acrylamide | O1COC2=C1C=CC(=C2)CNS(=O)(=O)C=2C=C(C=CC2)C=CC(=O)NO | C17H16N2O6S
